US04319913
The procedure of Example 1 was employed utilizing N-benzylaniline and 2-methylphenyl phosphonic dichloride. The reaction of the dilithio compound and the 2-methylphenyl phosphonic dichloride was conducted at 0° C. to yield 1-(2-methylphenyl)-2-phenyl-2,3-dihydro-1H-2,1-benzazaphosphole-1-oxide (0.8 g, 8% yield) as a yellow solid having a melting point of 181°-183° C. and the following analysis:

reactant | N-benzylaniline | C(C1=CC=CC=C1)NC1=CC=CC=C1 | C13H13N
reactant | 2-methylphenyl phosphonic dichloride | CC1=C(C=CC=C1)P(=O)(Cl)Cl | C7H7Cl2OP
product | 1-(2-methylphenyl)-2-phenyl-2,3-dihydro-1H-2,1-benzazaphosphole-1-oxide | 0.8 g, 8% yield | CC1=C(C=CC=C1)P1(N(CC2=C1C=CC=C2)C2=CC=CC=C2)=O | C20H18NOP
